US07145008B2
Preparation of 6-(4-Chloro-5-trifluoromethyl-pyrimidin-2-ylamino)-1,3-dihydro-indol-2-one:
To a solution of 2,4-dichloro-5-trifluoromethylpyrimidine (3.51 g; 16.2 mmol) in THF (100 mL) was added a solution of ZnCl2 (1M in ether; 16.2 mL). After 15 minutes 6-aminooxindole (2 g; 13.5 mmol) was added in small portions, followed by the dropwise addition of Et3N (1.63 g; 16.2 mmol) in 10 mL of THF. The reaction was then stirred at RT overnight. Following removal of the solvent under reduced pressure, the crude reaction was triturated from methanol and the product filtered off as a yellow solid 2.2 g (50% yield). 1H NMR (DMSO-d6, 400 MHz) δ 3.40 (s, 2H), 7.13 (d, J=8.3 Hz, 2H), 7.20 (d, J=7.9 Hz; 1H), 7.27 (br s, 1H), 8.75 (s, 1H), 10.41 (s, 1H), 10.62 (s, 1H); HPLC ret. time: 5.933 min. LRMS (M+) 329.1, 331.0.

reactant | 2,4-dichloro-5-trifluoromethylpyrimidine | 16.2 mmol, 3.51 g | ClC1=NC=C(C(=N1)Cl)C(F)(F)F | C5HCl2F3N2
reactant | 6-aminooxindole | 13.5 mmol, 2 g | NC1=CC=C2CC(NC2=C1)=O | C8H8N2O
reactant | Et3N | 16.2 mmol, 1.63 g | CCN(CC)CC | C6H15N
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | ZnCl2 | 1M, 16.2 mL | [Cl-].[Cl-].[Zn+2]
product | 6-(4-Chloro-5-trifluoromethyl-pyrimidin-2-ylamino)-1,3-dihydro-indol-2-one | 2.2 g, 50% yield | ClC1=NC(=NC=C1C(F)(F)F)NC1=CC=C2CC(NC2=C1)=O | C13H8ClF3N4O
